US04025641
6-(4-Isopentyloxy-butyloxy)-hexanol
17.8 g (0.163 mol) of 1,6-hexandiol in 30 cc of absolute 1,2-dimethoxy ethane are added dropwise over the course of 15 minutes, under nitrogen and while stirring, to 4.85 g (0.117 mol) of 55% sodium hydride dispersion in oil, suspended in 140 cc of absolute 1,2-dimethoxy ethane. The mixture is stirred at 60° for 3 hours, 22.5 g (0.101 mol) of 1-bromo-4-isopentyloxy-butane are then added and then it is stirred at 60° for 40 hours. After cooling to 20°, 400 cc of ether are added to the reaction mixture. The ether solution is washed three times with water, subsequently with saturated sodium chloride solution, dried over sodium sulphate and evaporated. The residue is chromatographed with hexane/ethyl acetate (95:5) to (75:25) on silica gel. The almost pure fractions are fractionally distilled and 6-(4-isopentyloxy-butyloxy)-hexanol, having a B.P. of 134°-142°/0.5 mm Hg, is obtained as a colourless liquid.

reactant | 1,6-hexandiol | 0.163 mol, 17.8 g | C(CCCCCO)O | C6H14O2
reactant | sodium hydride | 0.117 mol, 4.85 g | [H-].[Na+]
reactant | 1-bromo-4-isopentyloxy-butane | 0.101 mol, 22.5 g | BrCCCCOCCC(C)C | C9H19BrO
reactant | ether | 400 cc | CCOCC | C4H10O
solvent | 1,2-dimethoxy ethane | 30 cc | COCCOC | C4H10O2
solvent | 1,2-dimethoxy ethane | 140 cc | COCCOC | C4H10O2
product | 6-(4-Isopentyloxy-butyloxy)-hexanol | C(CC(C)C)OCCCCOCCCCCCO | C15H32O3
